US06310070B1
An amidation reaction and post-treatment were carried out following the conditions of Example 17, using 1.84 g (7.99 mmol) of 4-amino-1-(2-phenylethyl)-5-imidazolecarboxamide prepared in the same manner as in Example 56 and 2-(N-t-butyloxycarbonyl-N-methylamino)acetic acid instead of 3-pyridylacetic acid hydrochloride to obtain 3.03 g of 4-(2-(N-t-butyloxycarbonyl-N-methylamino)acetylamino)-1-(2-phenylethyl)-5-imidazolecarboxamide (yield 94%).

reactant | 4-amino-1-(2-phenylethyl)-5-imidazolecarboxamide | 7.99 mmol, 1.84 g | NC=1N=CN(C1C(=O)N)CCC1=CC=CC=C1 | C12H14N4O
reactant | 2-(N-t-butyloxycarbonyl-N-methylamino)acetic acid | C(C)(C)(C)OC(=O)N(C)CC(=O)O | C8H15NO4
product | 4-(2-(N-t-butyloxycarbonyl-N-methylamino)acetylamino)-1-(2-phenylethyl)-5-imidazolecarboxamide | 3.03 g, yield 94% | C(C)(C)(C)OC(=O)N(C)CC(=O)NC=1N=CN(C1C(=O)N)CCC1=CC=CC=C1 | C20H27N5O4
